US05674906
Synthesis of (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-L-phenylalanineamide Hydrochloride
(E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile-Boc-L-phenylalanineamide (1,082 mg, 1.11 mmols) was dissolved in 10 ml of dichloromethane, and 5 ml of a solution of 4-M hydrochloric acid and dioxane were added thereto. The mixture was reacted at room temperature for 1 hour. One-hundred milliliters of diethyl ether were added thereto, and the resulting mixture was filtered. The thus-obtained powder was recrystallized from a mixture of chloroform, methanol and ethyl acetate at a ratio of 4:1:4 to produce 450 mg (0.859 mmols) of the final compound in a yield of 77%.

reactant | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile Boc-L-phenylalanineamide | 1.11 mmols, 1,082 mg | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)C(=O)N
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | diethyl ether | One-hundred milliliters | C(C)OCC | C4H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (E)-3-(3-Amino-4-methoxyphenyl)-2-(3,4,5-trimethoxyphenyl)-prop-2-enenitrile L-phenylalanineamide Hydrochloride | 0.859 mmols, 450 mg, yield of 77% | NC=1C=C(C=CC1OC)/C=C(/C#N)\C1=CC(=C(C(=C1)OC)OC)OC.Cl.N[C@@H](CC1=CC=CC=C1)C(=O)N | InChI=1S/C19H20N2O4.C9H12N2O.ClH/c1-22-16-6-5-12(8-15(16)21)7-14(11-20)13-9-17(23-2)19(25-4)18(10-13)24-3;10-8(9(11)12)6-7-4-2-1-3-5-7;/h5-10H,21H2,1-4H3;1-5,8H,6,10H2,(H2,11,12);1H/b14-7-;;/t;8-;/m.0./s1
